US07101886B2
N-(4-{2-[4-(1H-INDAZOL-3-YL)-PIPERAZIN-1-YL]-ETHYL}-2.5-DIMETHYL-PHENYL)-ACETAMIDE
N-[4-(2-Chloro-ethyl)-2,5-dimethyl-phenyl]-acetamide (0.142 g, 0.631 mmol) was reacted with 3-piperazin-1-yl-1H-indazole hydrochloride (0.226 g, 0.946 mmol) according to the method outlined in Example 501.

reactant | N-[4-(2-Chloro-ethyl)-2,5-dimethyl-phenyl]-acetamide | 0.631 mmol, 0.142 g | ClCCC1=CC(=C(C=C1C)NC(C)=O)C | C12H16ClNO
reactant | 3-piperazin-1-yl-1H-indazole hydrochloride | 0.946 mmol, 0.226 g | Cl.N1(CCNCC1)C1=NNC2=CC=CC=C12
product | N-(4-{2-[4-(1H-INDAZOL-3-YL)-PIPERAZIN-1-YL]-ETHYL}-2.5-DIMETHYL-PHENYL)-ACETAMIDE | N1N=C(C2=CC=CC=C12)N1CCN(CC1)CCC1=CC(=C(C=C1C)NC(C)=O)C | C23H29N5O
